US04180395
3-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-1,2-propanediol
To a solution of 12.9 grams (0.07 mole) of 3,5-dichloro-2,6-difluoropyridine in 50 milliliters of glycerol was added over an 8 minute period 2.9 grams of sodium hydroxide in 25 milliliters of glycerol. The mixture was maintained at ~85° C. for ~17 minutes, cooled and poured into 200 milliliters of cold water. The solid which precipitated was air dried and taken up in benzene, dried and most of the benzene was removed by evaporation under reduced pressure. The residue was mixed with hexane and cooled and the crystalline 3-(3,5-dichloro-6-fluoro-2-pyridyloxy)-1,2-propanediol product which precipitated was recovered by filtration. The product was covered in a yield of 10 grams (56 percent of theoretical). The product melted at 78°-80° C. and was found upon analysis to have carbon, hydrogen, chlorine and nitrogen contents of 37.5, 2.9, 27.6 and 5.6 percent, respectively, as compared with the theoretical contents of 37.5, 3.2, 27.7 and 5.5 percent, calculated for the above-named compound.

reactant | 3,5-dichloro-2,6-difluoropyridine | 0.07 mole, 12.9 grams | ClC=1C(=NC(=C(C1)Cl)F)F | C5HCl2F2N
reactant | sodium hydroxide | 2.9 grams | [OH-].[Na+]
reactant | water | 200 milliliters | O | H2O
reactant | glycerol | 50 milliliters | OCC(O)CO | C3H8O3
reactant | glycerol | 25 milliliters | OCC(O)CO | C3H8O3
product | 3-(3,5-Dichloro-6-fluoro-2-pyridyloxy)-1,2-propanediol | ClC=1C(=NC(=C(C1)Cl)F)OCC(CO)O | C8H8Cl2FNO3
